US09290500B2
Ethyl 2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylate (163 mg, 0.489 mmol) is stirred in 4 M NaOH (2.4 mL) and ethanol (1.2 mL) at 100° C. in a sealed vial for 5 hr during which time a precipitate forms. The reaction mixture is diluted with water and a saturated solution of ammonium chloride to bring the pH to about 4. The precipitate is collected in a Buchner funnel to provide 2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylic acid (145 mg, yield 97%). 1H NMR (400 MHz, DMSO) δ 8.74 (s, 1H), 8.72-8.64 (m, 1H), 8.03 (dd, J=11.4, 5.4 Hz, 2H), 7.86 (d, J=6.3 Hz, 1H), 7.69-7.52 (m, 3H), 6.80 (s, 1H).

reactant | Ethyl 2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylate | 0.489 mmol, 163 mg | C1(=CC=CC2=CC=CC=C12)C1=NN2C(NC=C(C2=O)C(=O)OCC)=C1 | C19H15N3O3
reactant | ethanol | 1.2 mL | C(C)O | C2H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | NaOH | 4 M, 2.4 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(1-naphthyl)-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 145 mg, yield 97% | C1(=CC=CC2=CC=CC=C12)C1=NN2C(NC=C(C2=O)C(=O)O)=C1 | C17H11N3O3
